US06013494
Klebsiella pneumoniae strains ECL 2106 and 2106-47, both transformed with pJSP1A, and ATCC 25955, transformed with pJSP1A and pJSP2, were grown in a 5 L Applikon fermenter under various conditions (see Table 4) for the production of 1,3-propanediol from glucose. Strain 2104-47 is a fluoroacetate-tolerant derivative of ECL 2106 which was obtained from a fluoroacetate/lactate selection plate as described in Bauer et al., Appl. Environ. Microbiol. 56, 1296 (1990). In each case, the medium used contained 50-100 mM potassium phosphate buffer, pH 7.5, 40 mM (NH4)2SO4, 0.1% (w/v) yeast extract, 10 μM CoCl2, 6.5 μM CuCl2, 100 μM FeCl3, 18 μM FeSO4, 5 μM H3BO3, 50 μM MnCl2, 0.1 μM Na2MoO4, 25 μM ZnCl2, 0.82 mM MgSO4, 0.9 mM CaCl2, and 10-20 g/L glucose. Additional glucose was fed, with residual glucose maintained in excess. Temperature was controlled at 37° C. and pH controlled at 7.5 with 5N KOH or NaOH. Appropriate antibiotics were included for plasmid maintenance; IPTG (isopropyl-β-D-thiogalactopyranoside) was added at the indicated concentrations as well. For anaerobic fermentations, 0.1 vvm nitrogen was sparged through the reactor; when the dO setpoint was 5%, 1 vvm air was sparged through the reactor and the medium was supplemented with vitamin B12. Final concentrations and overall yields (g/g) are shown in Table 4.

reactant | 1,3-propanediol | C(CCO)O | C3H8O2
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | fluoroacetate | FCC(=O)[O-]
product | fluoroacetate lactate | FCC(=O)[O-].C(C(O)C)(=O)[O-] | InChI=1S/C3H6O3.C2H3FO2/c1-2(4)3(5)6;3-1-2(4)5/h2,4H,1H3,(H,5,6);1H2,(H,4,5)/p-2
